US09260441B2
Step A: tert-Butyl (3R)-3-[(4-methyl-2-pyridyl)amino]piperidine-1-carboxylate
3-Bromo-5-methylpyridine (200 mg, 1.163 mmol), sodium tert-butoxide (223 mg, 2.325 mmol), tert-butyl (3R)-3-aminopiperidine-1-carboxylate (349 mg, 1.744 mmol) and BrettPhos (31.2 mg, 0.058 mmol) in anhydrous dioxane (10 ml) was purged with argon. Pd2(DBA)3 (53.2 mg, 0.058 mmol) was added and the mixture was stirred at 70° C. for two hours. After cooling to room temperature the mixture was filtered through kieselguhr, the filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (silica, gradient from 0.5 to 10% methanol containing 7N NH3 in DCM) to yield 271 mg of an orange solid (0.93 mmol, 64%) MS (ESI) m/z=292.2 [M+1]+.

reactant | 3-Bromo-5-methylpyridine | 1.163 mmol, 200 mg | BrC=1C=NC=C(C1)C | C6H6BrN
reactant | sodium tert-butoxide | 2.325 mmol, 223 mg | CC(C)([O-])C.[Na+]
reactant | tert-butyl (3R)-3-aminopiperidine-1-carboxylate | 1.744 mmol, 349 mg | N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd2(DBA)3 | 0.058 mmol, 53.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BrettPhos | 0.058 mmol, 31.2 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC(=C2P(C3CCCCC3)C4CCCCC4)OC)OC)C(C)C | C35H53O2P
product | tert-Butyl (3R)-3-[(4-methyl-2-pyridyl)amino]piperidine-1-carboxylate | 0.93 mmol, 271 mg, 64% | CC1=CC(=NC=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C16H25N3O2
